** Name: SimpleOpAmp47

.MACRO SimpleOpAmp47 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=7e-6 W=21e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=7e-6 W=36e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=6e-6 W=7e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX2 inputVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=12e-6
mNormalTransistorNmos5 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=7e-6 W=43e-6
mNormalTransistorNmos6 inputVoltageBiasXXpXX2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=7e-6 W=19e-6
mNormalTransistorNmos7 out ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=7e-6 W=64e-6
mNormalTransistorNmos8 FirstStageYinnerSourceLoad2 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=7e-6 W=64e-6
mNormalTransistorNmos9 FirstStageYsourceGCC1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=7e-6 W=218e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=7e-6 W=218e-6
mNormalTransistorPmos11 out inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=6e-6 W=221e-6
mNormalTransistorPmos12 FirstStageYinnerSourceLoad2 inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 pmos4 L=6e-6 W=221e-6
mNormalTransistorPmos13 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=4e-6 W=148e-6
mNormalTransistorPmos14 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=4e-6 W=148e-6
mNormalTransistorPmos15 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=33e-6
mNormalTransistorPmos16 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=33e-6
mNormalTransistorPmos17 FirstStageYsourceTransconductance inputVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=96e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp47

** Expected Performance Values: 
** Gain: 85 dB
** Power consumption: 0.731001 mW
** Area: 8833 (mu_m)^2
** Transit frequency: 3.52601 MHz
** Transit frequency with error factor: 3.5261 MHz
** Slew rate: 4.00445 V/mu_s
** Phase margin: 82.506°
** CMRR: 139 dB
** VoutMax: 4.52001 V
** VoutMin: 0.780001 V
** VcmMax: 4.09001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorNmos: 11.8441 muA
** NormalTransistorNmos: 5.29101 muA
** NormalTransistorNmos: 38.4491 muA
** NormalTransistorNmos: 59.5141 muA
** NormalTransistorNmos: 38.4491 muA
** NormalTransistorNmos: 59.5141 muA
** NormalTransistorPmos: -38.4499 muA
** NormalTransistorPmos: -38.4509 muA
** NormalTransistorPmos: -38.4499 muA
** NormalTransistorPmos: -38.4509 muA
** NormalTransistorPmos: -42.1329 muA
** NormalTransistorPmos: -21.0659 muA
** NormalTransistorPmos: -21.0659 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -11.8449 muA
** DiodeTransistorPmos: -5.29199 muA


** Expected Voltages: 
** ibias: 1.15901  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.68601  V
** inputVoltageBiasXXpXX2: 4.27901  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX1: 0.556001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 4.19401  V
** innerTransistorStack1Load2: 4.49101  V
** innerTransistorStack2Load2: 4.49101  V
** sourceGCC1: 0.530001  V
** sourceGCC2: 0.530001  V
** sourceTransconductance: 3.25301  V


.END