** Name: SimpleOpAmp50

.MACRO SimpleOpAmp50 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=5e-6
mDiodeTransistorNmos2 ibias ibias sourceNmos sourceNmos nmos4 L=3e-6 W=7e-6
mDiodeTransistorPmos3 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=12e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=11e-6
mNormalTransistorNmos5 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=3e-6 W=64e-6
mNormalTransistorNmos6 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=48e-6
mNormalTransistorNmos7 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=48e-6
mNormalTransistorNmos8 inputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=25e-6
mNormalTransistorNmos9 out FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=5e-6
mNormalTransistorPmos10 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=40e-6
mNormalTransistorPmos11 FirstStageYout1 inputVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=179e-6
mNormalTransistorPmos12 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=40e-6
mNormalTransistorPmos13 out inputVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=179e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp50

** Expected Performance Values: 
** Gain: 51 dB
** Power consumption: 1.41301 mW
** Area: 961 (mu_m)^2
** Transit frequency: 9.65801 MHz
** Transit frequency with error factor: 9.65756 MHz
** Slew rate: 8.16991 V/mu_s
** Phase margin: 86.5167°
** CMRR: 98 dB
** VoutMax: 3.88001 V
** VoutMin: 0.580001 V
** VcmMax: 5 V
** VcmMin: 0.780001 V


** Expected Currents: 
** NormalTransistorNmos: 35.7521 muA
** NormalTransistorPmos: -72.6979 muA
** NormalTransistorPmos: -118.41 muA
** NormalTransistorPmos: -72.6979 muA
** NormalTransistorPmos: -118.41 muA
** DiodeTransistorNmos: 72.6971 muA
** NormalTransistorNmos: 72.6971 muA
** NormalTransistorNmos: 91.4231 muA
** NormalTransistorNmos: 45.7121 muA
** NormalTransistorNmos: 45.7121 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -35.7529 muA
** DiodeTransistorPmos: -35.7539 muA


** Expected Voltages: 
** ibias: 0.629001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.03601  V
** out: 2.5  V
** outSourceVoltageBiasXXpXX1: 4.02701  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 0.989001  V
** sourceGCC1: 3.75  V
** sourceGCC2: 3.75  V
** sourceTransconductance: 1.94501  V


.END