** Name: SimpleOpAmp53

.MACRO SimpleOpAmp53 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=5e-6 W=17e-6
mDiodeTransistorNmos2 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=3e-6 W=51e-6
mDiodeTransistorNmos3 FirstStageYout1 FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 nmos4 L=3e-6 W=8e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=10e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=23e-6
mNormalTransistorNmos6 inputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=5e-6 W=78e-6
mNormalTransistorNmos7 out FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=3e-6 W=8e-6
mNormalTransistorNmos8 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=3e-6 W=51e-6
mNormalTransistorNmos9 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=8e-6 W=30e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=8e-6 W=30e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=5e-6 W=97e-6
mNormalTransistorPmos12 out inputVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=98e-6
mNormalTransistorPmos13 FirstStageYout1 inputVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=98e-6
mNormalTransistorPmos14 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=35e-6
mNormalTransistorPmos15 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=35e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp53

** Expected Performance Values: 
** Gain: 82 dB
** Power consumption: 0.957001 mW
** Area: 2093 (mu_m)^2
** Transit frequency: 3 MHz
** Transit frequency with error factor: 3.00003 MHz
** Slew rate: 4.79041 V/mu_s
** Phase margin: 88.8085°
** CMRR: 131 dB
** VoutMax: 3.96001 V
** VoutMin: 0.990001 V
** VcmMax: 5.07001 V
** VcmMin: 0.890001 V


** Expected Currents: 
** NormalTransistorNmos: 45.4851 muA
** NormalTransistorPmos: -39.8009 muA
** NormalTransistorPmos: -67.9279 muA
** NormalTransistorPmos: -39.8009 muA
** NormalTransistorPmos: -67.9279 muA
** DiodeTransistorNmos: 39.8001 muA
** DiodeTransistorNmos: 39.7991 muA
** NormalTransistorNmos: 39.8001 muA
** NormalTransistorNmos: 39.7991 muA
** NormalTransistorNmos: 56.2521 muA
** NormalTransistorNmos: 28.1261 muA
** NormalTransistorNmos: 28.1261 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -45.4859 muA
** DiodeTransistorPmos: -45.4849 muA


** Expected Voltages: 
** ibias: 0.591001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.03601  V
** out: 2.5  V
** outSourceVoltageBiasXXpXX1: 4.10501  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 0.571001  V
** innerTransistorStack2Load2: 0.568001  V
** out1: 1.39401  V
** sourceGCC1: 3.75  V
** sourceGCC2: 3.75  V
** sourceTransconductance: 1.79601  V


.END