** Name: SimpleOpAmp55

.MACRO SimpleOpAmp55 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=2e-6 W=5e-6
mDiodeTransistorNmos2 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=1e-6 W=27e-6
mDiodeTransistorNmos3 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=2e-6 W=27e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=10e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=71e-6
mNormalTransistorNmos6 inputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=2e-6 W=33e-6
mNormalTransistorNmos7 out FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 nmos4 L=2e-6 W=27e-6
mNormalTransistorNmos8 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=1e-6 W=27e-6
mNormalTransistorNmos9 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=7e-6 W=55e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=7e-6 W=55e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=2e-6 W=32e-6
mNormalTransistorPmos12 out inputVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=136e-6
mNormalTransistorPmos13 FirstStageYout1 inputVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=136e-6
mNormalTransistorPmos14 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=93e-6
mNormalTransistorPmos15 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=93e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp55

** Expected Performance Values: 
** Gain: 85 dB
** Power consumption: 1.25001 mW
** Area: 1611 (mu_m)^2
** Transit frequency: 4.59501 MHz
** Transit frequency with error factor: 4.59463 MHz
** Slew rate: 5.89582 V/mu_s
** Phase margin: 88.2356°
** CMRR: 142 dB
** VoutMax: 4.06001 V
** VoutMin: 0.780001 V
** VcmMax: 5.18001 V
** VcmMin: 0.840001 V


** Expected Currents: 
** NormalTransistorNmos: 66.4341 muA
** NormalTransistorPmos: -55.2339 muA
** NormalTransistorPmos: -86.8079 muA
** NormalTransistorPmos: -55.2339 muA
** NormalTransistorPmos: -86.8079 muA
** DiodeTransistorNmos: 55.2331 muA
** NormalTransistorNmos: 55.2321 muA
** NormalTransistorNmos: 55.2331 muA
** DiodeTransistorNmos: 55.2321 muA
** NormalTransistorNmos: 63.1461 muA
** NormalTransistorNmos: 31.5731 muA
** NormalTransistorNmos: 31.5731 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -66.4349 muA
** DiodeTransistorPmos: -66.4359 muA


** Expected Voltages: 
** ibias: 0.622001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.03601  V
** out: 2.5  V
** outSourceVoltageBiasXXpXX1: 4.20701  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 0.560001  V
** innerTransistorStack1Load2: 0.559001  V
** out1: 1.18401  V
** sourceGCC1: 3.75  V
** sourceGCC2: 3.75  V
** sourceTransconductance: 1.87701  V


.END