** Name: SimpleOpAmp72

.MACRO SimpleOpAmp72 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=3e-6 W=8e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=94e-6
mDiodeTransistorNmos3 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=1e-6 W=14e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=11e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=5e-6
mNormalTransistorNmos6 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=9e-6
mNormalTransistorNmos7 out FirstStageYout1 sourceNmos sourceNmos nmos4 L=1e-6 W=14e-6
mNormalTransistorNmos8 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=70e-6
mNormalTransistorNmos9 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=70e-6
mNormalTransistorNmos10 FirstStageYsourceTransconductance ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=3e-6 W=94e-6
mNormalTransistorNmos11 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=8e-6
mNormalTransistorPmos12 out inputVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=2e-6 W=435e-6
mNormalTransistorPmos13 FirstStageYout1 inputVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=2e-6 W=435e-6
mNormalTransistorPmos14 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=65e-6
mNormalTransistorPmos15 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=65e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp72

** Expected Performance Values: 
** Gain: 50 dB
** Power consumption: 1.56801 mW
** Area: 3119 (mu_m)^2
** Transit frequency: 10.6501 MHz
** Transit frequency with error factor: 10.65 MHz
** Slew rate: 10.0983 V/mu_s
** Phase margin: 77.3494°
** CMRR: 103 dB
** VoutMax: 3.79001 V
** VoutMin: 0.270001 V
** VcmMax: 4.90001 V
** VcmMin: 1.40001 V


** Expected Currents: 
** NormalTransistorNmos: 11.1401 muA
** NormalTransistorPmos: -88.3339 muA
** NormalTransistorPmos: -146.239 muA
** NormalTransistorPmos: -88.3339 muA
** NormalTransistorPmos: -146.239 muA
** DiodeTransistorNmos: 88.3331 muA
** NormalTransistorNmos: 88.3331 muA
** NormalTransistorNmos: 115.812 muA
** DiodeTransistorNmos: 115.813 muA
** NormalTransistorNmos: 57.9051 muA
** NormalTransistorNmos: 57.9051 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -11.1409 muA
** DiodeTransistorPmos: -11.1419 muA


** Expected Voltages: 
** ibias: 1.22801  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.03601  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX1: 0.615001  V
** outSourceVoltageBiasXXpXX1: 3.93501  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 0.677001  V
** sourceGCC1: 3.75  V
** sourceGCC2: 3.75  V
** sourceTransconductance: 1.92301  V
** inner: 0.612001  V


.END